US06211215B1
In substantially the same manner as in Working Example 37, 1-[3-(4-hydroxyphenyl)propyl]imidazole was allowed to react with 2-benzyl-4-chloromethyloxazole to give 2-benzyl-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole. The yield was 23%. Recrystallization from ethyl acetate-isopropyl ether gave colorless prisms, mp 61-62° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 2-benzyl-4-chloromethyloxazole | C(C1=CC=CC=C1)C=1OC=C(N1)CCl | C11H10ClNO
product | 2-benzyl-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | yield was 23% | C(C1=CC=CC=C1)C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C23H23N3O2
